datasets/10k_Mayr_OG.csv
SMILES Labelled
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.Cl[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>CC1=CC(C)=C(C(C)C[CH:20]([N+:10]2=[CH:61][CH:62]=[C:63](Cl)[CH:72]=[CH:71]2)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10=20
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[N+:11]([O-:12])[O-:62])[CH:83]=[CH:82]1>>COC1=CC=C([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][CH:73]=[C:74](C)[CH:82]=[CH:83]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"ClC1=CC=C([P:10](C2=CC=C(Cl)C=C2)C2=CC=C(Cl)C=C2)C=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([P+:10](C2=CC=C(Cl)C=C2)(C2=CC=C(Cl)C=C2)C2=CC=C(Cl)C=C2)N2N=N[N:35]=[C:34]21 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[C:10]3=[N+:71](C)[CH:63]=[CH:62][N:61]3C(C)(C)C)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10=20;20,21=21"
C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][CH:10]1[S:61](=[O:62])(=[O:82])C4=C(C=CC=C4)[S:71]1(=[O:72])=[O:92])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10=20
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1 10,11=10,20;12=11,12"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>CC[O:33][C:31]([CH:20]([O:10][C:61]1=[CH:62][C:63]([N+](=O)[O-])=[CH:64][CH:73]=[CH:72]1)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[C:11]=[N-:12])[CH:84]=[CH:85]1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]([C:11]#[N:12])[CH:20](C2=CC=CC=C2)[CH-:21][S:32](F)(=[O:33])=[O:34])[CH:84]=[CH:85]1 10,11=10,20;12=11,12;20,21=21"
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:11]([C:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)CCC[O:72][C:61]1=[O:62])=[O:12] 10,11=10,20;12=11,12"
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[NH-:10][C:61]#[N:62]>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH:10][C:61]#[N:62])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.CC1(C)[O:72][C:61](=[O:62])[CH:10]=[C:11]([O-:12])[O:82]1>>CC(C)(C)[C:22]1=[C:21]([CH:20]([CH:10]2[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1=CC(C)=C([N+:61]2=[C-:10][N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2=[N+:61](C3=C(C)C=C(C)C=C3C)CC[N:71]2C2=C(C)C=C(C)C=C2C)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
CC[O:92][C:61]([CH-:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:62].CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC[O:92][C:61]([CH:10]([CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:62] 10=20
